US08471005B2
Palladium Acetate (0.018 g, 0.000080 mol) and Triphenylphosphine (0.026 g, 0.00010 mol) were dissolved in Tetrahydrofuran (1.2 mL, 0.015 mol) and the mixture was allowed to stir at room temperature for 10 minutes. (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(4-morpholin-4-yl-phenyl)-amine (0.150 g, 0.000401 mol) was then added and the reaction was again allowed to stir for 10 minutes. 6-hydroxy-3-pyridine boronic acid (0.111 g, 0.000802 mol) was added followed by 0.9 M of Sodium carbonate in water (1 mL, 0.0009 mol) and Ethanol (1.2 mL, 0.021 mol). The reaction mixture was then heated at 80° C. and was allowed to stir overnight. The reaction mixture was poured over saturated sodium chloride, and organics were extracted with ethyl acetate. Combined organics were dried over sodium sulfate, filtered and reduced en vacuo. The crude mixture was purified by Gilson prep HPLC to afford 8.16 mg of 5-[2-(4-Morpholin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-pyridin-2-ol as a lyophilized powder. (M+H)=389.7. 1H NMR (400 MHz, DMSO, d6) δ 9.27 (s, 1H), 8.89 (s, 1H), 8.42 (m, 1H), 8.13 (dd, 1H, J=2.60, 7.00 Hz), 7.58 (d, 2H, J=8.92 Hz), 7.06 (m, 3H), 6.90 (d, 1H, J=4.76 Hz), 6.52 (d, 1H, J=9.61 Hz), 3.77 (m, 4H), 3.11 (m, 4H).

reactant | Triphenylphosphine | 0.00010 mol, 0.026 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Tetrahydrofuran | 0.015 mol, 1.2 mL | O1CCCC1 | C4H8O
reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-(4-morpholin-4-yl-phenyl)-amine | 0.000401 mol, 0.150 g | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCOCC2 | C16H16BrN5O
reactant | 6-hydroxy-3-pyridine boronic acid | 0.000802 mol, 0.111 g | OC1=CC=C(C=N1)B(O)O | C5H6BNO3
reactant | Sodium carbonate | 0.9 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 0.0009 mol, 1 mL | O | H2O
reactant | Ethanol | 0.021 mol, 1.2 mL | C(C)O | C2H6O
reactant | sodium chloride | [Cl-].[Na+]
catalyst | Palladium Acetate | 0.000080 mol, 0.018 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-[2-(4-Morpholin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-pyridin-2-ol | 8.16 mg | N1(CCOCC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C=2C=CC(=NC2)O | C21H20N6O2
